US08212041B2
1-(2-chloro-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)phenyl)ethanamine
A solution of tert-butyl 1-(2-chloro-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)phenyl)ethylcarbamate (100 mg, 178 μmol) in DCM (2 mL) and TFA (2 mL) was stirred for 30 min at 23° C. Solvents removed under reduced pressure (not-toluene azeotroping is suggested!) and residue dissolved in CHCl3/IPA (10 mL). Solution stirred as a suspension with Si-Carbonate (1.3 g; 1 mmol) for 30 min. Suspension filtered and filtrate reduced to an amber film (150 mg). Product purified on silica (12 g) eluting with 4-7% of 2M NH3 in MeOH/DCM. MS (ESI pos. ion) m/z: 461 (MH+). Calc'd exact mass for C24H21ClN6O2: 460.

reactant | tert-butyl 1-(2-chloro-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)phenyl)ethylcarbamate | 178 μmol, 100 mg | ClC1=C(C=CC(=C1)C=1C=CC=2N(N1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC)C(C)NC(OC(C)(C)C)=O | C29H29ClN6O4
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(2-chloro-4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)phenyl)ethanamine | ClC1=C(C=CC(=C1)C=1C=CC=2N(N1)C(=NN2)COC2=CC=NC1=CC(=CC=C21)OC)C(C)N | C24H21ClN6O2
